Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
Admission Labs

___ 03:40PM BLOOD WBC-12.3* RBC-3.74* Hgb-11.6 Hct-34.5 
MCV-92 MCH-31.0 MCHC-33.6 RDW-12.5 RDWSD-41.7 Plt ___
___ 03:40PM BLOOD Neuts-78.3* Lymphs-12.4* Monos-8.6 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-9.64* AbsLymp-1.53 
AbsMono-1.06* AbsEos-0.01* AbsBaso-0.02
___ 03:40PM BLOOD Glucose-101* UreaN-41* Creat-1.3* Na-141 
K-4.0 Cl-99 HCO3-23 AnGap-19*
___ 03:40PM BLOOD ALT-41* AST-128* CK(CPK)-6232* AlkPhos-81 
TotBili-1.0
___ 03:40PM BLOOD cTropnT-0.02*
___ 11:13PM BLOOD cTropnT-0.02*
___ 09:49AM BLOOD cTropnT-<0.01
___ 03:40PM BLOOD Albumin-4.3
___ 06:27AM BLOOD calTIBC-199* Ferritn-256* TRF-153*
___ 06:15AM BLOOD %HbA1c-5.1 eAG-100
___ 06:15AM BLOOD Triglyc-58 HDL-63 CHOL/HD-2.3 LDLcalc-68 
LDLmeas-77
___ 06:15AM BLOOD TSH-1.7
___ 03:40PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

Reports

MRI Brain
1. Unremarkable noncontrast brain MRI.  No evidence of an acute 
stroke, 
intracranial mass, or hemorrhage. 
2. Age-related involutional changes. 

CT Head
No acute intracranial process.  Lateral right infraorbital and 
mild left 
frontal scalp soft tissue swelling.  No acute fracture seen. 

XR Knees
1.  No acute fracture or dislocation. 
2.  Degenerative changes of both knees, as detailed above. 
3.  Moderate bilateral suprapatellar joint effusions. 
4.  Bilateral chondrocalcinosis. 

 
Brief Hospital Course:
Ms. ___ is an ___ year-old woman with ___ 
who presented after a fall most likely triggered by vasovagal 
syncope, with course c/b rhabdomyolysis and also found to have 
Pseudomonal UTI.

TRANSITIONAL ISSUES
===================
[ ] Should continue Ciprofloxacin for 3 day total course 
(through ___
[ ] Noted to have moderate protein and blood on UA. Should be 
repeated at PCP visit to ensure resolution. If blood alone 
persists, given normal Cr should undergo cystoscopy +/- CT 
urogram to evaluate for urologic etiology of hematuria. If blood 
and protein persists, should have evaluation of urine sediment 
and likely renal consult.
[ ] Levator Ani/Coccygeus assymetrically thickened on CT and 
ovoid sacral canal fluid density most c/w Tarlov cyst seen. 
Should undergo non-urgent MRI Pelvis to evaluate in the next ___ 
months.
[ ] Sinemet discontinued due to side effects. Should undergo 
evaluation for alternative treatment options.

ACUTE ISSUES
============
# Fall
# Rhabdomyolysis
# Orthostatic Hypotension
Fell in the bathroom, woke up on the ground. No clear antecedent 
events. No known arrhythmias. Monitored on telemetry w/o 
bradycardia or abnormalities (aside from Parkinsonian artifact). 
EKG unremarkable. Labs notable for elevated CK and Cr c/w ___ 
from rhabdomyolysis. Treated with IV fluids with improvement in 
labs. ___ evaluated and recommended discharge to rehab.

# Pseudomonal UTI
Found to have UA with c/f possible UTI. No clear urinary 
symptoms (reports intermittent, chronic dysuria) but given 
several fevers and >100k cfu of Pseudomonas in urine, treated 
with 3-day course of Cipro.

# R Facial Droop
Noted to have R facial droop that patient reported was chronic 
but daughter reported was new. Neuro consulted and CT & MRI 
performed which showed no evidence of stroke and "droop" felt 
most likely ___ edema from fall.

# Parkinsons
Had been started on Sinemet in the past several months, dose 
being adjusted but causing significant fatigue. Decision made to 
stop treatment for now.

# Code Status: DNR/DNI
# Emergency Contact: Daughter, ___ (___)
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Betamethasone Dipro 0.05% Cream 1 Appl TP BID 
2. Carbidopa-Levodopa CR (___) 1 TAB PO BID 
3. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 250 mg PO Q12H Duration: 3 Days 
RX *ciprofloxacin HCl 250 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*3 Tablet Refills:*0 
2.  Psyllium Powder 1 PKT PO DAILY  
3.  Senna 8.6 mg PO BID  
4.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Injurious Fall
Urinary Tract Infection 
___ 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at the ___ 
___.

Why did you come to the hospital?
- You fell at home.

What did you receive in the hospital?
- We found you had a urine infection and started you on 
antibiotics.
- We did a CT and MRI which did not show any sign of stroke.
- We had the neurology team see you and they did not feel you 
had any concerns for stroke; they recommended we stop your 
Sinemet.
- We had the physical therapy team see you and they recommended 
you go to the rehab facility at your assisted living to work on 
getting stronger.

What should you do once you leave the hospital?
- Please take your medications as prescribed and go to your 
future appointments which are listed below.
- You should continue Ciprofloxacin through tomorrow

We wish you all the best!
- Your ___ Care Team
 
Followup Instructions:
___